US04544661
Preparation of 3,5,6-trichloro-2-pyridyloxyacetic Acid
To 450 ml of a stirred solution of Garlon 3A (triethylamine salt of 3,5,6-trichloro-2-pyridyloxyacetic acid), 250 ml concentrated hydrochloric acid was added with stirring. A precipitate formed. The mixture was diluted to 1500 ml with water. The precipitate was filtered, washed with water, pressed dried and then dried inside the hood to give 176 g of the above-identified product as a beige solid.

reactant | Garlon 3A | CCN(CC)CC.C1=C(C(=NC(=C1Cl)Cl)OCC(=O)O)Cl
reactant | hydrochloric acid | 250 ml | Cl | ClH
solvent | water | O | H2O
product | 3,5,6-trichloro-2-pyridyloxyacetic Acid | 176 g | ClC=1C(=NC(=C(C1)Cl)Cl)OCC(=O)O | C7H4Cl3NO3
